US07414063B2
Preparation of (4-Bromo-benzyloxy)-acetaldehyde
5 N HCl (20 mL) is added to a stirred solution of 1-bromo 4-(2,2-diethoxy-ethoxymethyl)-benzene (1.86 g, 6.13 mmol) in diethyl ether (20 mL) at ambient temperature. The resultant two-layered mixture is stirred vigorously under nitrogen for 16 hours. Diethyl ether (30 mL) and brine (20 mL) are added to the mixture. The organic layer is separated, washed with half-saturated brine, dried, filter and concentrated into a ˜50 mL solution (35 mg/mL). 1H NMR (CDCl3): δ9.72 (s, 1H), 7.49 (d, J=7.49 Hz, 2H), 7.24 (d, J=7.9 Hz, 2H), 4.57 (s, 2H), 4.11 (s, 2H).

reactant | HCl | 5 N, 20 mL | Cl | ClH
reactant | 1-bromo 4-(2,2-diethoxy-ethoxymethyl)-benzene | 6.13 mmol, 1.86 g | BrC1=CC=C(C=C1)COCC(OCC)OCC | C13H19BrO3
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | Diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (4-Bromo-benzyloxy)-acetaldehyde | BrC1=CC=C(COCC=O)C=C1 | C9H9BrO2
